US05648370
a) 2-[2-[2-Bromoethylthio]ethyl]-1,3-dioxolane
To a stirred cooled (<0°) solution of 2-[2-[1,3-dioxolan-2-yl]ethylthio]ethanol (13.6 g, prepared by the condensation between mercaptoethanol and 2-[2-bromoethyl]-1,3-dioxolane employing sodium hydride) in dry acetonitrile (150 ml) was added triphenylphosphine (20 g) and carbon tetrabromide (38 g). The solution was stirred for 4 hours. The solvent was removed under reduced pressure and the residue pre-absorbed onto silica. The material was flash chromatographed over silica using 10% ethylacetate/petroleum ether as eluant to afford the subtitled compound as a clear oil (4.45 g). The material was used in the next step without further purification.

reactant | 2-[2-[1,3-dioxolan-2-yl]ethylthio]ethanol | O1C(OCC1)CCSCCO | C7H14O3S
reactant | mercaptoethanol | SC(C)O | C2H6OS
reactant | 2-[2-bromoethyl]-1,3-dioxolane | BrCCC1OCCO1 | C5H9BrO2
reactant | sodium hydride | [H-].[Na+]
reactant | triphenylphosphine | 20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 38 g | C(Br)(Br)(Br)Br | CBr4
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2-[2-[2-Bromoethylthio]ethyl]-1,3-dioxolane | 4.45 g | BrCCSCCC1OCCO1 | C7H13BrO2S
